US08492549B2
(S)-1-(2,3-Dihydro-benzo[1,4]dioxin-2-yl)-methanol
(R)-2,3-Dihydro-benzo[1,4]dioxine-2-carboxylic acid (27.9 mmol, 5.02 g) was dissolved in dry THF (30 ml). LiAlH4 (56.9 mmol, 2.16 g) was added. The mixture was refluxed for 70 minutes. After cooling, the reaction was quenched with water and 1 M NaOH. The mixture was filtrated through Celite and evaporated to dryness. This gave 4.3 g of the title compound.

reactant | (R)-2,3-Dihydro-benzo[1,4]dioxine-2-carboxylic acid | 27.9 mmol, 5.02 g | O1[C@H](COC2=C1C=CC=C2)C(=O)O | C9H8O4
reactant | LiAlH4 | 56.9 mmol, 2.16 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | (S)-1-(2,3-Dihydro-benzo[1,4]dioxin-2-yl)-methanol | O1[C@H](COC2=C1C=CC=C2)CO | C9H10O3
